US06693123B2
[4-(3-Pyridyloxymethyl)-2-(2-methylphenyl)benzoyl]methionine Methyl Ester
The desired compound was prepared by saponification of 4-(3-pyridyloxymethyl)-2-(2-methylphenyl)benzoic acid methyl ester, prepared as in Example 204D, followed by coupling with methionine methyl ester hydrochloride and saponification as described in Examples 304E-G. 1H NMR (300 MHz, CDCl3) δ 8.40 (bs, 1H), 8.25 (dd, J=4.1, 1.9 Hz, 1H), 7.99 (dd, J=22.8, 8.1 Hz, 1H), 7.53-7.50 (m, 1H), 7.36-7.21 (m, 7H), 5.91 (bd, J=7.7 Hz, 1H (NH)), 5.18 (s, 2H), 4.70-4.58 (m, 1H), 3.66 (s, 3H, OMe), 2.18-2.00 (m, 5H), 1.95-1.82 (m, 1H), 1.65-1.55 (m, 4H, contains SMe). MS (CI) 465 (M+H)+. Anal calcd for C26H28O4N2S: 0.30H2O solvate: C, 66.45; H, 6.13; N, 5.96. Found: C, 66.45; H, 6.15; N, 5.97. HRMS FAB Calcd m/z MH+ for C26H28O4N2S 465.1848, found 465.1869.

reactant | 4-(3-pyridyloxymethyl)-2-(2-methylphenyl)benzoic acid methyl ester | COC(C1=C(C=C(C=C1)COC=1C=NC=CC1)C1=C(C=CC=C1)C)=O | C21H19NO3
reactant | methionine methyl ester hydrochloride | Cl.COC([C@@H](N)CCSC)=O
product | [4-(3-Pyridyloxymethyl)-2-(2-methylphenyl)benzoyl]methionine Methyl Ester | COC([C@@H](NC(C1=C(C=C(C=C1)COC=1C=NC=CC1)C1=C(C=CC=C1)C)=O)CCSC)=O | C26H28N2O4S
